US08629270B2
Racemic tert-Butyl-2-benzamido-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate
A solution of tert-butyl-3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate (1.6 g, 3.5 mmol) in dichloromethane (87 mL) at 0° C. is treated with 1-chloro-N,N,2-trimethylpropenylamine (0.94 mg, 7.0 mmol). The mixture is allowed to warm to room temperature and stirred for 4 hours under nitrogen. Saturated sodium bicarbonate is added and the solution extracted with dichloromethane. The combined organic layers are dried over sodium sulfate, filtered, and concentrated to give a residue. The residue is purified by silica gel flash chromatography, eluting with hexane/ethyl acetate (1:0) to hexane/ethyl acetate (0:1) to give the title compound, which is used without further purification (1.6 g, 104%). ES/MS (m/e): 438 (M+H).

reactant | tert-butyl-3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate | 3.5 mmol, 1.6 g | C(C)(C)(C)OC(=O)N1CC(C(C1)CO)(C1=CC=CC=C1)NC(NC(C1=CC=CC=C1)=O)=S | C24H29N3O4S
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 7.0 mmol, 0.94 mg | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 87 mL | ClCCl | CH2Cl2
product | Racemic tert-Butyl-2-benzamido-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | C(C)(C)(C)OC(=O)N1CC2(N=C(SCC2C1)NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H27N3O3S
